US05919855
This example illustrates another method for preparing a carbon black product of the present invention. A pin pelletizer was charged with 200 g of a carbon black with a CTAB surface area of 350 m2/g and a DBPA of 120. A solution of 44.2 g of sodium sulfanilate in 95 g of water at 70° C. was added and the pelletizer was run for one minute. Twenty grams of water was added followed by 39.6 g of concentrated nitric acid. The pelletizer was run for an additional minute. Twenty grams of water was added followed by a solution of 16.76 g of sodium nitrite in 35 g of water, forming 4-sulfobenzenediazonium hydroxide inner salt in situ, which reacted with the carbon black. After running the pelletizer for five minutes, a solution of 11.22 g of sodium hydroxide in 35 g of water was added. The pelletizer was run for an additional two minutes and the resulting a carbon black product was subsequently dried. Soxhlet extraction with ethanol overnight gave a carbon black product with 3.3% sulfur, compared against 0.5% for the untreated carbon black. This shows that 77% of the p-C6H4SO3-- groups were attached to the carbon black product. Therefore, the carbon black product had 0.88 mmol/g of attached p-C6H4SO3 -- groups.

reactant | carbon black | C | CH4
reactant | carbon black | 200 g | C | CH4
reactant | DBPA | C1=C(NC(=C1Br)Br)C(=O)O | C5H3Br2NO2
reactant | sodium sulfanilate | 44.2 g | S(=O)(C1=CC=C(C=C1)N)(=O)[O-].[Na+]
reactant | nitric acid | 39.6 g | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | 16.76 g | N(=O)[O-].[Na+]
solvent | water | 95 g | O | H2O
solvent | water | 35 g | O | H2O
solvent | water | Twenty grams | O | H2O
solvent | water | Twenty grams | O | H2O
product | 4-sulfobenzenediazonium hydroxide | [OH-].S(=O)(=O)(O)C1=CC=C(C=C1)[N+]#N | InChI=1S/C6H4N2O3S.H2O/c7-8-5-1-3-6(4-2-5)12(9,10)11;/h1-4H;1H2
